US06982263B2
(a) 4-Amino-1-propyl-piperidine-4-carbonitrile
To a solution of 2-hydroxy-4-methyl-pentanoic acid (4-cyano-1-propyl-piperidin-4-yl)-amide (0.316 g, 1.1 mmol) in CH2Cl2 (30 mL) was added DMAP (0.192 g, 1.6 mmol), p-nitrophenyl chloroformate (0.249 g, 1.2 mmol), and N-methylmorpholine (0.136 mL, 1.2 mmol). The resulting mixture was allowed to stir overnight (20 h) under argon at room temperature, then treated with benzylamine (1.68 g, 16 mmol) and allowed to stir overnight (20 h). When the reaction was complete the mixture was diluted with CH2Cl2 (50 mL), then washed with saturated aq. NaHCO3 (50 mL), water and brine, dried over Na2SO4, filtered and evaporated in vacuo to give 0.200 g (50% yield) of the desired product after purification by prep-HPLC;

reactant | 2-hydroxy-4-methyl-pentanoic acid (4-cyano-1-propyl-piperidin-4-yl)-amide | 1.1 mmol, 0.316 g | C(#N)C1(CCN(CC1)CCC)NC(C(CC(C)C)O)=O | C15H27N3O2
reactant | p-nitrophenyl chloroformate | 1.2 mmol, 0.249 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | N-methylmorpholine | 1.2 mmol, 0.136 mL | CN1CCOCC1 | C5H11NO
reactant | benzylamine | 16 mmol, 1.68 g | C(C1=CC=CC=C1)N | C7H9N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.6 mmol, 0.192 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Amino-1-propyl-piperidine-4-carbonitrile | 0.200 g, 50% yield | NC1(CCN(CC1)CCC)C#N | C9H17N3
